US09447084B2
Ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoate
Into a 50-mL pressure tank reactor (10 atm), was placed 3-[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]-5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole (600 mg, 1.08 mmol, 1.00 equiv), ethanol (20 mL), Pd(dppf)Cl2 (158 mg, 0.22 mmol, 0.20 equiv), NaOAc (177 mg, 2.16 mmol, 2.00 equiv), CO (10 atm). The resulting solution was stirred overnight at 110° C. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:30-1:10). This resulted in 300 mg (46%) of ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoate as yellow oil.

reactant | 3-[4-bromo-3-(2,2,2-trifluoroethyl)phenyl]-5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazole | 1.08 mmol, 600 mg, 1.00 equiv | BrC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)Cl)CC(F)(F)F | C19H10BrClF9NO
reactant | NaOAc | 2.16 mmol, 177 mg, 2.00 equiv | CC(=O)[O-].[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd(dppf)Cl2 | 0.22 mmol, 158 mg, 0.20 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(2,2,2-trifluoroethyl)benzoate | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)OCC)C=C1)CC(F)(F)F)C(F)(F)F | C22H15ClF9NO3
